US07834194B2
Using the procedure to synthesize Example 12 and using reagents 3-(3-chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one (175 mg, 0.481 mmol), 4-bromo-butyric acid tert-butyl ester (215 mg, 0.962 mmol), sodium iodide (72 mg, 0.481 mmol), and cesium carbonate (1.25 g, 3.85 mmol) afford crude 4-[3-chloro-2-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-benzo[b]thiophen-6-yloxy]-butyric acid tert-butyl ester. Dissolve ester in trifluoroacetic acid (25 mL) and stir for 1.5 hr. Evaporate and dissolve in 1M NaOH and wash with ether. Bring aqueous layer to a pH of ˜2 with 6M HCl, filter, and dry. Purified on silica gel (30-50% ethyl acetate in hexanes) to give the title compound (105 mg, 49%) as a tan solid: Mass spectrum (apci) m/z=450.1 (M+H).

reactant | 3-(3-chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one | 0.481 mmol, 175 mg | ClC=1C2=C(SC1CC1C(N(CC1)C1CCCCC1)=O)C=C(C=C2)O | C19H22ClNO2S
reactant | 4-bromo-butyric acid tert-butyl ester | 0.962 mmol, 215 mg | C(C)(C)(C)OC(CCCBr)=O | C8H15BrO2
reactant | sodium iodide | 0.481 mmol, 72 mg | [I-].[Na+]
reactant | cesium carbonate | 3.85 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 4-[3-chloro-2-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-benzo[b]thiophen-6-yloxy]-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCCOC=1C=CC2=C(SC(=C2Cl)CC2C(N(CC2)C2CCCCC2)=O)C1)=O | C27H36ClNO4S
